* P3.1: switched-cap sample-and-hold testbench.
*
* Topology:
*   Vin -> NMOS18 switch -> hold node -> CMIM_STD to GND
*
* Drive Vin with a slow ramp 0 -> 1 V over 10 clock periods. Clock at
* 1 MHz, 50 % duty: phi high (switch on / sampling) for 500 ns, then
* phi low (switch off / holding) for 500 ns.
*
* With a 10x10 um CMIM_STD (10 pF) and an NMOS18 (W=10u L=1u, Vth_TT
* ~ 0.48 V), the switch's Ron at Vgs - Vth ~ 0.3 V is ~ 240 ohm, so the
* sampling time constant is ~ 2.4 ns -- the 500 ns sampling window
* gives ~ 200 tau, settling to <e-200. Any residual error reflects
* charge injection, clock feedthrough, body-effect, and BSIM3-level
* mismatch in the switch's small-signal model.
*
* Expected charge-injection error (Cgso = 2.2e-10 F/m, W = 10 um):
*   Q_inj = Cov * dVgs / 2 ~ 2.2 fF * 1.8 V / 2 = 2 fC
*   dVhold = Q_inj / C_hold = 2 fC / 10 pF = 0.2 mV
* So expect a few-hundred-microvolt offset and small gain error.
.include "../../autohv_bicmos180_case.lib"
.param case=0
.param PROC_ON=0
.param MM_ON=0

* Slow ramp Vin from 0 to 1 V over 10 us, then hold.
Vin in 0 PWL(0 0 10u 1 100u 1)

* Sampling clock: 1 MHz, 50 % duty.
* PULSE(V_low V_high tdelay trise tfall t_high T_period)
Vphi phi 0 PULSE(0 1.8 100n 5n 5n 495n 1u)

* NMOS18 switch: gate driven by phi.
XSW in phi hnode 0 NMOS18 W=10u L=1u M=1

* 10 pF hold cap (CMIM_STD at L=W=100u, cj=0.001 F/m^2 at TT).
XCH hnode 0 CMIM_STD L=100u W=100u

.control
tran 10n 11u 0 50n UIC
echo SC_RUN_OK
* Use the Windows TEMP path explicitly. The harness substitutes
* this if it needs a different location.
wrdata sc_sample_hold.data v(in) v(phi) v(hnode)
quit
.endc
.end
